US06057311
a. (1R,3S)-benzyl 1-(1-adamantyl)methyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]-indole-3-carboxylate
Trifluoroacetic acid (270 μl, 3.5 mmol) was added to a solution of L-tryptophan benzyl ester (10.23 g, 34.8 mmol) and 1-adamantylacetaldehyde (6.2 g, 34.8 mmol) in dry DCM (300 ml) wth 3A molecular sieves (46.5 g) at -10° C. The reaction mixture was allowed to warm to room temperature and stirred for 7 hours. The mixture was cooled to 0° C. trifluoroacetic acid (5.6 ml, 72.7 mmol) added, and stirring continued at room temperature for 16 hours. The reaction mixture was filtered, washed successively with saturated NaHCO3 solution (200 ml), brine (2×200 ml) and dried (MgSO4). Filtration and evaporation of the solvent gave the crude product. The compound was obtained by isolation of the more polar component by flash chromatography on silica gel with ethyl acetate-DCM (1:40) as eluant. (6.2 g, 39%)

reactant | Trifluoroacetic acid | 3.5 mmol, 270 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | L-tryptophan benzyl ester | 34.8 mmol, 10.23 g | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C18H18N2O2
reactant | 1-adamantylacetaldehyde | 34.8 mmol, 6.2 g | C12(CC3CC(CC(C1)C3)C2)CC=O | C12H18O
reactant | trifluoroacetic acid | 72.7 mmol, 5.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate DCM | C(C)(=O)OCC.C(Cl)Cl
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | (1R,3S)-benzyl 1-(1-adamantyl)methyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]-indole-3-carboxylate | C12(CC3CC(CC(C1)C3)C2)C[C@H]2N[C@@H](CC3=C2NC2=CC=CC=C32)C(=O)OCC3=CC=CC=C3 | C30H34N2O2
